US06548522B1
N-Hexyl-2,2-diphenyl-acetamide
The title compound, off-white solid, m.p. 100° C. and MS: m/e=296.4 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and hexylamine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | hexylamine | C(CCCCC)N | C6H15N
product | N-Hexyl-2,2-diphenyl-acetamide | C(CCCCC)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H25NO
